US06437146B1
To a solution of phenol (5.01 g, 53.2 mmol) in toluene (25 ml) was added a solution of chlorosulfonyl isocyanate (7.9 g, 55.9 mmol) in toluene (30 ml) at room temperature. The mixture was stirred at 120° C. for 14 hours. The solvent was removed in vacuo and the residue was added dropwise to water (75 ml). After stirring the resultant mixture at room temperature for 24 hours, the resulting precipitate was collected, washed with water, dissolved in EtOAc, washed with brine successively, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:EtOAc, 1:1) to give sulfamic acid phenyl ester (5.52 g, 60%).

reactant | phenol | 53.2 mmol, 5.01 g | C1(=CC=CC=C1)O | C6H6O
reactant | chlorosulfonyl isocyanate | 55.9 mmol, 7.9 g | ClS(=O)(=O)N=C=O | CClNO3S
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | sulfamic acid phenyl ester | 5.52 g, 60% | C1(=CC=CC=C1)OS(N)(=O)=O | C6H7NO3S
